US08039450B2
6-Chloro-2-propoxy-nicotinonitrile (3)
To a solution of 6-chloro-2-propoxy-nicotinamide (3.80 g, 17.71 mmol) and pyridine (8.50 mL, 106.21 mmol) in acetonitrile (25 mL) was added phosphorus oxychloride (4.81 mL, 53.13 mmol) over a period of 5 min. The reaction was stirred at 55° C. for 1 h. Acetonitrile was evaporated in vacuo and the resulting residue was neutralized with 1N NaOH at 0° C. until pH reached to 7. The reaction mixture was extracted with EtOAc (100 mL). The organic layer was collected and the aqueous layer was further extracted with EtOAc (3×50 mL). All organics were combined washed with brine (2×25 mL), dried over anhydrous Na2SO4, filtered, and concentrated to give yellow oil. Purification was accomplished by flash chromatography on silica gel using 5-25% EtOAc/hexanes gradient elution to yield the title compound (3.4 g, 98%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.29 (d, J=7.9 Hz, 1H), 7.29 (d, J=7.9 Hz, 1H), 4.31 (t, J=6.5 Hz, 2H), 1.79-1.66 (m, 2H), 0.96 (t, J=7.5 Hz, 3H).

reactant | 6-chloro-2-propoxy-nicotinamide | 17.71 mmol, 3.80 g | ClC1=NC(=C(C(=O)N)C=C1)OCCC | C9H11ClN2O2
reactant | pyridine | 106.21 mmol, 8.50 mL | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 53.13 mmol, 4.81 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 6-Chloro-2-propoxy-nicotinonitrile | 3.4 g, 98% | ClC1=NC(=C(C#N)C=C1)OCCC | C9H9ClN2O
